Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
depression/SI
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Briefly, this
is an ___ old man from ___, a freshman psychology major at
___, sent in by ___'s counseling service after telling 
a
counselor that he attempted to hang himself recently, and was
still suicidal.  

He reports a three year history of untreated depression,
including insomnia, decreased interest, suicidality.  He does
ruminate about unpleasant thoughts, and his concentration and
appetite are usually ok.  He has been recently triggered by his
girlfriend's abortion which he opposed.  He has not made friends
at school and has minimal social support.  He is very anxious
about finishing his schoolwork, and is not pleased to be at the
hospital, though he is polite about it.  He has taken
antidepressants once for 2 weeks, but is against them, as he
"should be able to do it naturally".

He tried to kill himself by tying sheets around his neck and
jumping out the window, but was not able to actually make the
jump when he tried.  No other past SA or SIB.  Denies feeling
suicidal currently, he just wants to get out so he can finish 
his
schoolwork.

Course in Emergency Department:  No behavioral issues, no meds
given

 
Past Medical History:
denies
 
Social History:
___
Family History:
mother with depression on antidepressants per patient

 
Physical Exam:
VS:  BP: 117/79  HR: 56  temp: 98.2  resp: 16 O2 sat: 100%RA  
 
MENTAL STATUS EXAM:
--appearance: Young AA male, good grooming with good eye 
contact,
appears stated age
--behavior/attitude: cooperative but guarded; exhibited no PMR,
PMA
--speech: normal rate and tone
--mood (in patient's words): "relaxed" 
--affect: constricted, somewhat irritable; appropriate to the
context
--thought content (describe): "I just want to get out of here"
--thought process: linear
--perception: without AH, VH, delusions, paranoia
--SI/HI:  without SI right now; no HI; verbalized safety plan
--insight: fair 
--judgment: fair 
 
COGNITIVE EXAM:
--orientation: alert to person, place, time, situation
--attention/concentration: un able to recite MOYB
--memory (ball, chair, purple): immediate intact 
--calculations: quarters in $2.25 = 9
--language: grossly intact
--fund of knowledge: able to recall the president on ___ 
--proverbs: provided accurate interpretations of "cry over spilt
milk,"

PE:
General: Well-nourished, in no distress.
HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
Neck: Supple, trachea midline.  No adenopathy or thyromegaly.
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops;
Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
  *Cranial Nerves-
       I: Not tested
       II: Pupils equally round and reactive to light
bilaterally.
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor-No gross focal motor or sensory deficits, normal gait.
  *Sensation- Intact to light touch bilaterally.

 
Pertinent Results:
___ 05:34PM URINE  HOURS-RANDOM
___ 05:34PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 05:34PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:34PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-7.0 
LEUK-NEG
___ 05:34PM URINE  RBC-1 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 05:34PM URINE  MUCOUS-RARE
___ 02:45PM   GLUCOSE-91 UREA N-16 CREAT-1.1 SODIUM-138 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-28 ANION GAP-14
___ 02:45PM   estGFR-Using this
___ 02:45PM   TSH-1.1
___ 02:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:45PM   WBC-3.9* RBC-4.48* HGB-15.0 HCT-41.3 MCV-92 
MCH-33.6* MCHC-36.4* RDW-11.5
___ 02:45PM   NEUTS-57.1 ___ MONOS-3.2 EOS-1.4 
BASOS-0.6
___ 02:45PM   PLT COUNT-___. Legal: ___
2.  Medical:  No active issues

3.  Psychiatric:
I: Major Depression 
I:  def
III: denies
IV:  school stressors, relationship stressors 
V: 40-50 

Meds:  While here we initiated wellbutrin sustained release 150 
daily after discussing r/b/ae/alternatives.  He did not 
experience any adverse effects, and his mood remained stable.  
He opened up a little while here, but continued to express that 
his mood was not depressed, but he will have periods when he 
becames overwhelemed and impulsive.  We also initiated 1mg 
ativan as needed for sleep, which he tolerated and was helpful 
to his sleep.  He did continue to report nightmares, so we tried 
prazosin 2mg, but he did not feel it helped and more importantly 
made him feel dizzy when he walked, so we discontinued that.  We 
asked pt to continue wellbutrin, and increase to 150 BID in a 
few days.  He is aware that he needs to followup with outpt 
treaters to continue living in dorms, and is motivated to do 
that.

Suicide risk:
Pt reports that he tried to hang himself with a sheet in 
___, getting as far as tying sheets together and 
considering jumping out the window, and some time ago scratched 
his face in an impulsive self-harm gesture (no scar present).  
He felt suicidal when he spoke with NEU staff prior to admission 
and had made no further attempts since ___. Collateral 
revealed that his mood and functioning had greatly improved 
since ___, now with a clearer direction in classes, more 
stability in his relationships, and more friends and supports. 
He was also able to follow the advice of his girlfriend in 
seeking help for his worsening mood and suicidal thoughts, 
something he had not done in the past.

The Pt reports that since admission, he has accepted that he has 
more social support than he initially thought, and feels he can 
talk to people like his friends, GF, academic advisor (who is 
very close to him) and family.  He was able to list multiple 
coping skills that he finds helpful when feeling overwhelmed 
(writing poetry, exercising, calling friends, not being alone. 
If he feels unsafe he also appeared willing and able to call ___ 
or go to his new therapist if he feels unsafe in the future.  
Through out his amdission he was quite future-oriented, going as 
far as interviewing a student here so he could write a paper for 
one of his classes.  He is look forward to getting back to his 
schoolwork, and has multiple majors in mind that he is very 
interested in.  He is ambitious.  He looks forward to this 
___ when he will travel abroad for school.  He plans tonight 
to take his GF to dinner for her birthday, and this weekend will 
hang out with friends.  ___ he looks forward to going 
home to see his family.  Overall he is very future-oriented, and 
anticipates using new coping skills when he feels suicidal 
and/or impulsive.  His risk of self-harm is lower than on 
admission and does not present as an acute risk. He remains at 
chronic risk to himslef in times when he is most overwhelmed and 
this was discussed with him and detailed and best managed by 
ongoing therapy and connection. 

Over the course of his admission his degree of depression and 
suicidality was discussed with his girlfriend and with his 
school advisor who will remain vigient about how he is doing and 
support him in maintianing his outpatient treatment 

Psych testing was completed over his admisison: modestly 
defensive profile, not endorsing depressive or anxiety 
symtptoms.  Elevated narcissism scale.  Only modest SI.  High in 
hypervigilance. Some increased borderline configuration 
(difficulty with relationships, impulsivity, low in self-harm). 
Testing also did not reveal concern about his acute safety risk 

4.  Psychosocial:
SW has been in touch with pt's girlfriend, who is very 
supportive.  She feels he has been improving, and feels safe 
watching him and contacting treaters/EMS if she feels he is 
unsafe.  She says they spend ~12 hours/day together, and she is 
aware of how he is doing.

5.  Milieu:  Pt did not participate in groups in general.  
Stayed isolated much of the time, but in good behvaioral control 
and polite.   Wrote poetry often and engaged with his team and 
worked on his school work 
 
Medications on Admission:
none
 
Discharge Medications:
1. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO QAM (once a day (in the morning)): 
Take once daily until ___, then take one in the AM, one in the 
___.
Disp:*32 Tablet Extended Release(s)* Refills:*1*
2. lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety/insomnia.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I:  MDD
II: def
III: denies
IV:  relationship stress, mother with chronic illness
V: 40

 
Discharge Condition:
good

--appearance: Young AA male, good grooming with good eye 
contact,
appears stated age
--behavior/attitude: cooperative but guarded; exhibited no PMR,
PMA
--speech: normal rate and tone
--mood (in patient's words): 'good' 
--affect: constricted; appropriate to the
context
--thought content (describe): future oriented (___ birthday party 
tonight, school projects, thanksigivng visits with family)
--thought process: linear
--perception: without AH, VH, delusions, paranoia
--SI/HI:  without SI right now or for several days; no HI;
verbalized safety plan
--insight: fair 
--judgment: fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___